US07135475B2
A solution of 8-(4-amino-benzyl)-3-cyclopropylmethyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione (45 mg, 0.11 mmol) in N,N-dimethylformamide (1.0 mL) at 25° C. was treated with dimethylamino-acetic acid (11 mg, 0.11 mmol), O-benzotriazol-1-yl-N,N.N′N′-tetramethyluronium hexafluorophosphate (45 mg, 0.12 mmol), and N,N-diisopropylethylamine (56 μL, 0.32 mmol). The resulting solution was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. The residue was dissolved in chloroform and then was washed with a saturated aqueous sodium chloride solution (1×10 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting residue was purified by HPLC (15–60% acetonitrile/water/0.075% trifluoroacetic acid over 30 min). Fractions with the desired product were combined and concentrated in vacuo. The resulting residue was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (25 mL). The aqueous layer was re-extracted with dichloromethane (1×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was dried in vacuo for 24 h to afford N-{4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-2-dimethylamino-acetamide (24 mg, 44.3%) as an off-white solid: LR-MS for C27H29FN6O3 (M+H)+ at m/z=505.

reactant | 8-(4-amino-benzyl)-3-cyclopropylmethyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | 0.11 mmol, 45 mg | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CC2CC2)C=C1 | C23H22FN5O2
reactant | dimethylamino-acetic acid | 0.11 mmol, 11 mg | CN(C)CC(=O)O | C4H9NO2
reactant | N,N-diisopropylethylamine | 0.32 mmol, 56 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N-{4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-2-dimethylamino-acetamide | 24 mg, 44.3% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(CN(C)C)=O)=O)CC1=C(C=CC=C1)F)=O | C27H29FN6O3
